US04322271
58.5 g (0.5 mole) of N-α-methoxyethyl-acetamide and 84.2 g (0.55 mole) of ethyl iodide are simultaneously added dropwise to 300 ml of 50% strength sodium hydroxide solution at 10° C. Two hours after the addition has ended, the phases are separated in a separating funnel, the aqueous portion is extracted with hexane and, after stripping off the solvent, the residue is distilled in vacuo. 37 g (51% of theory) of N-α-methoxyethyl-N-etyl-acetamide of boiling point16 83°-85° C. are obtained.

reactant | N-α-methoxyethyl-acetamide | 0.5 mole, 58.5 g | COC(C)NC(C)=O | C5H11NO2
reactant | ethyl iodide | 0.55 mole, 84.2 g | C(C)I | C2H5I
reactant | sodium hydroxide | [OH-].[Na+]
product | N-α-methoxyethyl-N-etyl-acetamide | 37 g, 51% | COC(C)N(C(C)=O)CC | C7H15NO2
